US07598285B2
Ethyl 4-{(1S)-1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate (4.93 g, 12.2 mmol), and triethylamine (8.5 ml, 61 mmol) were dissolved in THF (100 ml) at −78° C. Triflic anhydride (4.1 ml, 24.5 mmol) was added. The cooling bath was removed and reaction mixture was stirred for 1 h. Ethyl acetate was added (100 ml), and the organic phase was washed with water, 1N HCl 2×, and brine 2×. Flash column chromatography (SiO2, 0-5% ethyl acetate in hexanes) yielded ethyl 4-[(1S)-1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoate as a colorless oil. NMR (500 MHz, CDCl3) δ: 1.38 (t, J=7.1 Hz, 3H); 1.98 (d, J=7.0 Hz, 3H); 4.36 (q, J=7.1 Hz, 2H); 5.55 (q, J=7.0 Hz, 1H); 6.43 (s, 1H); 7.33 (t, J=1.9 Hz, 1H); 7.36 (d, J=8.4 Hz, 2H); 7.68 (d, J=1.9 Hz, 2H); 8.02 (d, J=8.4 Hz, 2H).

reactant | Ethyl 4-{(1S)-1-[3-(3,5-dichlorophenyl)-5-oxo-4,5-dihydro-1H-pyrazol-1-yl]ethyl}benzoate | 12.2 mmol, 4.93 g | ClC=1C=C(C=C(C1)Cl)C1=NN(C(C1)=O)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C20H18Cl2N2O3
reactant | triethylamine | 61 mmol, 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 24.5 mmol, 4.1 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethyl 4-[(1S)-1-(3-(3,5-dichlorophenyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazol-1-yl)ethyl]benzoate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)OS(=O)(=O)C(F)(F)F)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C21H17Cl2F3N2O5S
